US05312996
Butadiene/1-Hexene Hydroformylation
A catalyst solution consisting of 0.019 g Rh(CO)2 (acac) (300 ppm rhodium), 0.99 g Ligand A (14:1 Ligand A to rhodium ratio), 2.2 g N-methylpyrrolidone (as an internal standard), 2 mL 1-hexene, and 25 mL tetrahydrofuran was charged to a 100 mL Parr reactor. Butadiene (2 mL) was charged to the reactor as a liquid under pressure. The reaction was pressurized to 500 psi with 1:1 CO:H2. The reaction rate for 1-hexene and butadiene was determined by monitoring 1-hexene conversion and the formation of butadiene hydroformylation products by gas chromatography. After 20 minutes of reaction, 1-hexene was found to be 84% converted, corresponding to a rate of 1.39 mol/1-hr. Butadiene hydroformylation proceeded at a rate of 1.0 mol/1-hr. After two hours of reaction the solution was analyzed by gas chromatography to determine product composition. Butadiene was 96% converted. The oxo products consisted of 0.7 g valeraldehyde, 0.1 g pentenals, 0.1 g branched dialdehyde, 0.2 g adipaldehyde, and 1.8 g heptanal.

reactant | 1-hexene | 2 mL | C=CCCCC | C6H12
reactant | Butadiene | 2 mL | C=CC=C | C4H6
reactant | valeraldehyde | 0.7 g | C(CCCC)=O | C5H10O
reactant | adipaldehyde | 0.2 g | C(CCCCC=O)=O | C6H10O2
reactant | heptanal | 1.8 g | C(CCCCCC)=O | C7H14O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | N-methylpyrrolidone | 2.2 g | CN1C(CCC1)=O | C5H9NO
product | Butadiene 1-Hexene | C=CC=C.C=CCCCC | InChI=1S/C6H12.C4H6/c1-3-5-6-4-2;1-3-4-2/h3H,1,4-6H2,2H3;3-4H,1-2H2
